US07473783B2
To a vial charged with 3-(2-bromo-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine (30 mg, 0.135 mmol), PS-DMAP (Argonaut resin, 0.54 g, 6 equiv.), and a stirring bar was added THF (1.5 mL) and 5-morpholin-4-ylmethyl-furan-2-carbonyl chloride hydrochloride (180 mg, 0.675 mmol). The reaction mixture was stirred at 70° C. for 17 hours, then cooled to room temperature and treated with PS-trisamine (Argonaut resin, 0.76 g, 20 equiv.) at 50° C. for 8 hours. The resin was filtered, washed with DMF and the solvent was evaporated. Purification on silica gel with 0-8% MeOH in CH2Cl2 as eluent provided 18 mg (27% yield) of 5-morpholin-4-ylmethyl-furan-2-carboxylic acid [3-(2-bromo-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-yl]-amide as a white solid. 1H-NMR (d6-DMSO) δ: 13.7 and 13.5 (2 broad s, 1H, NH+tautomer), 12.8 (broad s, 1H, NH), 7.65-7.82 (m, 3H), 7.49 and 7.55 (2 t, 1H, tautomers), 7.36 and 7.41 ( 2 t, 1H, tautomers), 6.58 (d, 1H), 3.59 (s, 2H), 3.56 (t, 4H), 2.41 (broad s, 4H); HPLC/MS m/z: 488.0, 490.0 [MH]+.

reactant | 3-(2-bromo-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 0.135 mmol, 30 mg | BrC1=C(C=CC=C1)C1=NNC=2N=C(SC21)N | C10H7BrN4S
reactant | 5-morpholin-4-ylmethyl-furan-2-carbonyl chloride hydrochloride | 0.675 mmol, 180 mg | Cl.N1(CCOCC1)CC1=CC=C(O1)C(=O)Cl
reactant | trisamine | 0.76 g, 20 equiv. | C(C(CO)(CO)N)O | C4H11NO3
catalyst | DMAP | 0.54 g, 6 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 5-morpholin-4-ylmethyl-furan-2-carboxylic acid [3-(2-bromo-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-yl]-amide | 18 mg, 27% yield | BrC1=C(C=CC=C1)C1=NNC=2N=C(SC21)NC(=O)C=2OC(=CC2)CN2CCOCC2 | C20H18BrN5O3S
